US04863906
Pivaloyl chloride (0.3 ml, 2.56 mmoles) was added to a cooled, stirred solution of 2'-deoxy-5-ethynyluridine (0.5 g, 1.98 mmols) in dry pyridine (5 ml) and stirring was maintained at room temperature for 3 hours. TLC in CH2Cl2 /MeOH (19:1) revealed complete reaction. The mixture was poured onto ice/water, methylene chloride added, the organic layer separated and washed with water, dried with sodium sulphate and evaporated to dryness. The residue was chromatographed on silica gel eluted with CH2Cl2 /MeOH. The first product was triturated with hexane to give 2'-deoxy-3',5'-di-O-pivaloyl-5-ethynyluridine. M.p. 151° C.

reactant | Pivaloyl chloride | 2.56 mmoles, 0.3 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2'-deoxy-5-ethynyluridine | 1.98 mmols, 0.5 g | C(#C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C11H12N2O5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2'-deoxy-3',5'-di-O-pivaloyl-5-ethynyluridine | C(C(C)(C)C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C(C)(C)C)=O)N1C(=O)NC(=O)C(=C1)C#C | C21H28N2O7
